### PR TITLE
[Merged by Bors] - feat(CStarAlgebra): the log is operator monotone

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that the logarithm is operator monotone, i.e. `CFC.log` is monotone on `{a : A | IsStrictlyPositive a}` where `A` is a unital C*-algebra.

---

- [ ] depends on: #31626 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Exponential.lean [hunk 1]
```diff
@@ -449,6 +449,13 @@ theorem norm_exp_sub_one_sub_id_le {x : ℂ} (hx : ‖x‖ ≤ 1) : ‖exp x - 1
     _ ≤ ‖x‖ ^ 2 * 1 := by gcongr; norm_num [Nat.factorial]
     _ = ‖x‖ ^ 2 := by rw [mul_one]
 
+theorem _root_.Real.norm_exp_sub_one_sub_id_le {x : ℝ} (hx : ‖x‖ ≤ 1) :
+    ‖Real.exp x - 1 - x‖ ≤ ‖x‖ ^ 2 := calc
+  _ = ‖((Real.exp x - 1 - x) : ℂ)‖ := by exact_mod_cast Complex.norm_real _
+  _ = ‖Complex.exp x - 1 - (x : ℂ)‖ := by simp
+  _ ≤ ‖(x : ℂ)‖ ^ 2 := Complex.norm_exp_sub_one_sub_id_le (by exact_mod_cast hx)
+  _ = ‖x‖ ^ 2 := by simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Exponential.lean:461]: This seems like a bit of a silly proof, but I don't care terribly much to ask you to change it. My thought would be to prove it first for `Real.exp`, or maybe `NormedSpace.exp` and get the others from that.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog.lean [hunk 2]
```diff
@@ -1,175 +1,6 @@
...
-  conv_rhs => rw [← cfc_id (R := ℝ) a]
-  refine cfc_congr fun x hx => ?_
-  grind [Real.exp_log]
-
-end real_log
-end CFC
+deprecated_module
+  "This file has now moved to
+  Mathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.ExpLog.Basic"
+  (since := "2025-10-25")
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog.lean]: Did we decide somewhere that we don't care about the git diff history anymore? If so, point me to that discussion please. If not, please do the file move as a separate PR first.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+-/
+
+open scoped Topology
+
+variable {A : Type*} [CStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+
+open Filter in
+lemma CFC.tendsto_cfc_rpow_sub_one_log {a : A} (ha : IsStrictlyPositive a) :
+    Tendsto (fun p : ℝ => cfc (fun x => p⁻¹ * (x ^ p - 1)) a) (𝓝[>] 0) (𝓝 (CFC.log a)) := by
+  refine tendsto_cfc_fun ?tendsto ?cont
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean:39]: 🎉 for `tendsto_cfc_fun` being used!

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+  case cont =>
+    refine Eventually.of_forall ?_
+    intro p
+    refine ContinuousOn.mul (by fun_prop) ?_
+    refine ContinuousOn.sub ?_ (by fun_prop)
+    exact ContinuousOn.rpow_const (by fun_prop) (by grind)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: untested, although I'm sure that you probably tried this and had a reason not to do it:
```
exact .of_forall fun p ↦ by fun_prop (disch := grind)
```

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+* `tendsto_rpow_sub_one_log`: `p⁻¹ * (x ^ p - 1)`: the analogous statement for pointwise
+  convergence.
+-/
+
+open scoped Topology
+open Real Filter
+
+open Set in
+lemma tendstoUniformlyOn_rpow_sub_one_log {s : Set ℝ} (hs : s ⊆ Ioi 0) (hs' : IsCompact s) :
+    TendstoUniformlyOn (fun (p : ℝ) (x : ℝ) => p⁻¹ * (x ^ p - 1)) log (𝓝[>] 0) s := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: You can phrase this without the reference to `s` as:
```
TendstoLocallyUniformlyOn (fun (p : ℝ) (x : ℝ) => p⁻¹ * (x ^ p - 1)) log (𝓝[>] 0) (Ioi 0)
```
The fact that these are equivalent, and what should allow you to leave your proof virtually intact is: [tendstoLocallyUniformlyOn_iff_forall_isCompact](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/LocallyUniformConvergence.html#tendstoLocallyUniformlyOn_iff_forall_isCompact)

**Review by j-loreaux — COMMENTED** [review]
I didn't look into simplifying any of the proofs really, so let me know if you would like to me to try.

Looks pretty good overall.

**Comment by j-loreaux** [comment]
@urkud I took this one off your hands, but you're still welcome to review.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog.lean]: Sure: see #31626.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean (hunk 4 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: That `fun_prop` bug is still there, but it works with `grind -abstractProof`.

File: Mathlib/Analysis/Complex/Exponential.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/Complex/Exponential.lean:461]: I agree, but I think I'd rather leave that for the future. It's a pretty big job: you'd have to redo `Complex.exp_bound` and a bunch of other things to do this correctly. It would be nice to have all this for `NormedSpace.exp` though.

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean (hunk 5 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: Done.

**Comment by dupuisf** [comment]
> I didn't look into simplifying any of the proofs really, so let me know if you would like to me to try.
> 
> Looks pretty good overall.

This is ready for review again; you can feel free to try to golf the proofs.

File: Mathlib/Analysis/Complex/Exponential.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Complex/Exponential.lean:461]: fair enough.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+    exact hmain (spectrum ℝ a) (by grind) (by grind)
+
+open Classical Real in
+/-- `log` is operator monotone. -/
+lemma CFC.log_monotoneOn : MonotoneOn log {a : A | IsStrictlyPositive a} := by
+  /- We have that `log x = lim_{p → 0} p⁻¹ * (x^p - 1)` with uniform convergence on the spectrum of
+  any positive definite operator, which means that `CFC.log a = lim_{p→0} p⁻¹ * (a^p - 1)` by the
+  continuity of the CFC (`tendsto_cfc_fun`). Then, we use the fact that `x^p` is monotone for
+  `p ∈ [0,1]` (`CFC.monotone_nnrpow`) and that the set of monotone functions is closed
+  (`isClosed.monotoneOn`) to conclude the proof. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  /- We have that `log x = lim_{p → 0} p⁻¹ * (x ^ p - 1)` with uniform convergence on the spectrum of
  any positive definite operator, which means that `CFC.log a = lim_{p → 0} p⁻¹ * (a ^ p - 1)` by the
  continuity of the continuous functional calculus (`tendsto_cfc_fun`). Then, we use the 
  fact that `x^p` is monotone for `p ∈ [0,1]` (`CFC.monotone_nnrpow`) and that the set of
  monotone functions is closed (`isClosed_monotoneOn`) to conclude the proof. -/
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+  let s := {a : A | IsStrictlyPositive a}
+  let f (p : ℝ) := fun a => if a ∈ s then cfc (A := A) (fun x => p⁻¹ * (x ^ p - 1)) a else 0
+  let g := fun a => if a ∈ s then log (A := A) a else 0
+  have hg : s.EqOn g (log (A := A)) := by
+    intro p hp
+    simp [g, hp]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  have hg : s.EqOn g (log (A := A)) := by simp +contextual [g, Set.EqOn]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 8]
```diff
@@ -0,0 +1,103 @@
...
+    intro a
+    by_cases ha : a ∈ s
+    · have hf : ∀ p, cfc (fun x => p⁻¹ * (x ^ p - 1)) a = f p a := by intro p; simp [f, ha]
+      refine Filter.Tendsto.congr hf ?_
+      have : g a = log a := by simp [g, ha]
+      rw [this]
+      exact tendsto_cfc_rpow_sub_one_log ha
+    · have hg' : g a = 0 := by simp [g, ha]
+      have hf' : ∀ i, f i a = 0 := by simp [f, ha]
+      simp [hg', hf']
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
    · have hf : ∀ p, cfc (fun x => p⁻¹ * (x ^ p - 1)) a = f p a := by simp [f, ha]
      exact (hg ha ▸ tendsto_cfc_rpow_sub_one_log ha).congr hf
    · simp [g, f, ha]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 9]
```diff
@@ -0,0 +1,103 @@
...
+  case eventually =>
+    have h₁ : ∀ᶠ (p : ℝ) in 𝓝[>] 0, p < 1 := by
+      refine Filter.Eventually.filter_mono nhdsWithin_le_nhds ?_
+      exact eventually_lt_nhds (b := 1) (by norm_num)
+    have hp' : ∀ᶠ (p : ℝ) in 𝓝[>] 0, 0 < p := eventually_nhdsWithin_of_forall fun x a => a
+    filter_upwards [h₁, hp'] with p hp hp'
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: using the basis makes this easier:
```suggestion
    have h₁ : ∀ᶠ (p : ℝ) in 𝓝[>] 0, 0 < p ∧ p < 1 := nhdsGT_basis 0 |>.mem_of_mem zero_lt_one
    filter_upwards [h₁] with p ⟨hp, hp'⟩
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 10]
```diff
@@ -0,0 +1,103 @@
...
+    have hf : s.EqOn (fun a : A => p⁻¹ • (a ^ p - 1)) (f p) := by
+      intro a ha
+      simp only [ha, ↓reduceIte, f, ← smul_eq_mul]
+      have h₁ : ContinuousOn (fun x => x ^ p) (spectrum ℝ a) := by
+        refine ContinuousOn.rpow_const (by fun_prop) ?_
+        have : IsUnit a := ha.2
+        grind [= spectrum.zero_notMem_iff]
+      have h₂ : ContinuousOn (fun x => x ^ p - 1) (spectrum ℝ a) :=
+        ContinuousOn.sub h₁ (by fun_prop)
+      rw [cfc_smul _ _ _ h₂, cfc_sub _ _ _ h₁ (by fun_prop)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: `grind` for the win!
```suggestion
      rw [cfc_smul _ (hf := by fun_prop (disch := grind -abstractProof)),
        cfc_sub _ _ (hf := by fun_prop (disch := grind -abstractProof))]
```
I don't quite understand the need for `-abstractProof`. Is this something to do with the way `fun_prop` works? And have we tried switching `cfc_cont_tac` to call `grind` instead of `aesop`?

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 11]
```diff
@@ -0,0 +1,103 @@
...
+      congr
+      · rw [CFC.rpow_def, cfc_nnreal_eq_real ..]
+        refine cfc_congr ?_
+        intro x hx
+        simp only [NNReal.coe_rpow, coe_toNNReal']
+        grind [= max_eq_left]
+      · rw [cfc_const_one (a := a) _]
+    refine MonotoneOn.congr ?_ hf
+    intro a ha b hb hab
+    simp only
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
    refine MonotoneOn.congr (fun a ha b hb hab ↦ ?_) hf
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 12]
```diff
@@ -0,0 +1,103 @@
...
+      have h₂ : ContinuousOn (fun x => x ^ p - 1) (spectrum ℝ a) :=
+        ContinuousOn.sub h₁ (by fun_prop)
+      rw [cfc_smul _ _ _ h₂, cfc_sub _ _ _ h₁ (by fun_prop)]
+      congr
+      · rw [CFC.rpow_def, cfc_nnreal_eq_real ..]
+        refine cfc_congr ?_
+        intro x hx
+        simp only [NNReal.coe_rpow, coe_toNNReal']
+        grind [= max_eq_left]
+      · rw [cfc_const_one (a := a) _]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
      rw [cfc_const_one ..]
      congr -- this should be factored out into it's own lemma, then we can `rw` with it
      · rw [CFC.rpow_def, cfc_nnreal_eq_real ..]
        refine cfc_congr ?_
        intro x hx
        simp only [NNReal.coe_rpow, coe_toNNReal']
        grind [= max_eq_left]
```

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean [hunk 13]
```diff
@@ -0,0 +1,88 @@
...
+
+open scoped Topology
+open Real Filter
+
+open Set in
+lemma tendstoLocallyUniformlyOn_rpow_sub_one_log :
+    TendstoLocallyUniformlyOn (fun (p : ℝ) (x : ℝ) => p⁻¹ * (x ^ p - 1)) log (𝓝[>] 0) (Ioi 0) := by
+  refine (tendstoLocallyUniformlyOn_iff_forall_isCompact isOpen_Ioi).mpr ?_
+  intro s hs hs'
+  rw [Metric.tendstoUniformlyOn_iff]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: This will allow you to go for `≤ ε` instead of `< ε`, which will save you all the `+ 1` headache. It's nice that `grind` and `gcongr` makes things easy enough to be doable, but we should be careful not to get complacent about making sure we have all the appropriate tools. In this case, that's [Filter.HasBasis.tendstoUniformlyOn_iff_of_uniformity](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergence.html#Filter.HasBasis.tendstoUniformlyOn_iff_of_uniformity). Is there a way that could have been more discoverable?
```suggestion
  rw [Metric.uniformity_basis_dist_le.tendstoUniformlyOn_iff_of_uniformity]
```

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean [hunk 14]
```diff
@@ -0,0 +1,88 @@
...
+          simp only [norm_mul, Real.norm_of_nonneg (r := p⁻¹) pinv_nonneg]
+          congr
+          rw [mul_comm, Real.exp_mul, Real.exp_log (by grind)]
+    _ ≤ p⁻¹ * ‖p * log x‖ ^ 2 := by
+          gcongr
+          refine Real.norm_exp_sub_one_sub_id_le ?_
+          simp only [hx']
+    _ = p * ‖log x‖ ^ 2 := by
+          simp only [norm_mul]
+          grind [Real.norm_of_nonneg]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: I think that this calculation (only up to this part) should be extracted into a lemma.

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean [hunk 15]
```diff
@@ -0,0 +1,88 @@
...
+  have sSup_nonneg : 0 ≤ sSup ((fun x => ‖log x‖ ^ 2) '' s) := by
+    refine Real.sSup_nonneg ?_
+    grind [norm_nonneg, ← sq_nonneg]
+  have sSup_nonneg' : 0 ≤ sSup ((fun x => ‖log x‖) '' s) := by
+    refine Real.sSup_nonneg ?_
+    grind [norm_nonneg, ← sq_nonneg]
+  have pbound_pos : 0 < pbound := by positivity
+  have h₁ : ∀ᶠ p : ℝ in 𝓝[>] 0, 0 < p := eventually_mem_of_tendsto_nhdsWithin fun ⦃U⦄ a => a
+  have h₂ : ∀ᶠ p : ℝ in 𝓝[>] 0, p < pbound :=
+    Eventually.filter_mono nhdsWithin_le_nhds <| eventually_lt_nhds pbound_pos
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: These kinds of calculations can be done with `nhdsGT_basis` as I showed in the other theorem.

**Review by j-loreaux — COMMENTED** [review]
I think there's a lot of room to improve the proof of `tendstoLocallyUniformlyOn_rpow_sub_one_log`. With my suggested changes (which you'll need to implement yourself), it should be more modular and avoid some of the fiddly `+ 1` nonsense.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean (hunk 10 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: It's because of a bug in `fun_prop`: by default, `grind` creates auxiliary definitions and `fun_prop` can't handle this behaviour from a discharger.

As for switching `cfc_cont_tac` over to `grind`, I played around with this a while back and it didn't quite work out of the box, but it's something we should try again every once in a while since `grind` is progressing so fast.

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean (hunk 13 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: In this specific case, I think it would make sense to have a `Metric.tendstoUniformlyOn_iff'` or something with the `≤ ε` case. I would wager that it's even more useful than the `< ε` version. I wouldn't really expect to have to go through filter bases for such a standard use case.

Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: I don't think this gets rid of the `+1` stuff, the reason it's needed is for the case `s = {1}`, in which case the `sSup` is 0 and things get annoying.

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean (hunk 14 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean [hunk 16]
```diff
@@ -0,0 +1,94 @@
...
+-/
+
+@[expose] public section
+
+open scoped Topology
+open Real Filter
+
+lemma Real.norm_inv_mul_rpow_sub_one_sub_log_le {p x : ℝ} (p_pos : 0 < p) (x_pos : 0 < x)
+    (hx : ‖p * log x‖ ≤ 1) : ‖p⁻¹ * (x ^ p - 1) - log x‖ ≤ p * ‖log x‖ ^ 2 := by
+  have pinv_nonneg : 0 ≤ p⁻¹ := by grind [_root_.inv_nonneg]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean:31]: Does something need to be `protected` here?

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean (hunk 13 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean]: Sorry, I misdiagnosed. The `s = {1}` case is annoying, and I don't think it's easier to handle it separately.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 17]
```diff
@@ -0,0 +1,91 @@
...
+      simp only [ha, ↓reduceIte, f, ← smul_eq_mul]
+      rw [cfc_smul _ (hf := by fun_prop (disch := grind -abstractProof)),
+        cfc_sub _ _ (hf := by fun_prop (disch := grind -abstractProof))]
+      rw [cfc_const_one ..]
+      congr -- this should be factored out into it's own lemma, then we can `rw` with it
+      · rw [CFC.rpow_def, cfc_nnreal_eq_real ..]
+        refine cfc_congr ?_
+        intro x hx
+        simp only [NNReal.coe_rpow, coe_toNNReal']
+        grind [= max_eq_left]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: Sorry, I hid this comment in the code suggestion. That was my bad. Can you factor out this lemma (it should go in the `Basic` file for `Rpow`).

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean (hunk 16 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/RpowTendsto.lean:31]: I don't think so, it doesn't conflict with anything right now and it's a pretty long name so it should be OK.
